US04740439
A uniform dispersion was prepared by dispersing 3 g of zinc stearate, 15 g of triacetyl cellulose, and 500 ml of methylene chloride in a ball mill for 10 hours. One surface of a polyethylene terephthalate film was subjected to a corona discharging treatment, and the above-described dispersion was coated on the treated surface to form a backing layer of 0.5 μm in thickness. Then, on the opposite surface thereof was coated a coating liquid of 10 g of nitrocellulose dissolved in 300 ml of acetate and dried to form an interlayer of 0.3 μm in thickness. 3 g of silver benehate was added to 20 g of a mixture of toluene and methyl ethyl ketone (1/2 by volume ratio), and the mixture was dispersed for about 20 hours in a ball mill to provide a uniform silver behenate suspension. Then, a silver behenate emulsion was prepared by adding the following composition (I) to 1.5 g of the silver behenate suspension.

reactant | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
reactant | polyethylene terephthalate | C(C1=CC=C(C(=O)O)C=C1)(=O)O.C(C[*:2])[*:1]
reactant | silver | 3 g | [Ag] | Ag
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | methyl ethyl ketone | C(C)C(=O)C | C4H8O
reactant | acetate | 300 ml | C(C)(=O)[O-]
catalyst | zinc stearate | 3 g | C(CCCCCCCCCCCCCCCCC)(=O)[O-].[Zn+2].C(CCCCCCCCCCCCCCCCC)(=O)[O-]
product | silver behenate | C(CCCCCCCCCCCCCCCCCCCCC)(=O)[O-].[Ag+] | InChI=1S/C22H44O2.Ag/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22(23)24;/h2-21H2,1H3,(H,23,24);/q;+1/p-1
